US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide
To a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (70 mg, 0.215 mmol) and 6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (59.1 mg, 0.258 mmol) in N,N-dimethylformamide (1.0 mL) were added HATU (98 mg, 0.258 mmol) and N,N-diisopropylethylamine (74 μL, 0.43 mmol), and the mixture was stirred at room temperature for 17 hr. Ethyl acetate and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) to give a pale-yellow solid. The obtained pale-yellow solid was washed with ethyl acetate and collected by filtration to give the title compound (66 mg, 57%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.215 mmol, 70 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 0.258 mmol, 59.1 mg | CC1=CC=C(C(N1C1=CC=CC=C1)=O)C(=O)O | C13H11NO3
reactant | HATU | 0.258 mmol, 98 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.43 mmol, 74 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-6-methyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 66 mg, 57% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC=CC=C2)=O)F)C1 | C30H24FN5O4
